US04489083
Methyltriphenylphosphonium bromide (6.9 g, 0.019M) was suspended in dry tetrahydrofuran (100 ml) at -40° C. under an atmosphere of dry nitrogen. n-Butyllithium (13.5 ml. of a 1.55M solution in hexane, 0.021M) was added dropwise during 10 minutes and the mixture was stirred at -40° C. for 30 minutes. 3-Chloro-2-methylbenzaldehyde (3.0 g, 0.019M) in dry tetrahydrofuran (10 mls) was then added. The mixture was maintained at -40° C. for 30 minutes and then allowed to warm to room temperature. Hexane (150 ml) was added and the mixture was filtered. The hexane was evaporated to give crude 3-chloro-2-methylstyrene which was used directly without further purification.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 3-Chloro-2-methylbenzaldehyde | 0.019M, 3.0 g | ClC=1C(=C(C=O)C=CC1)C | C8H7ClO
catalyst | Methyltriphenylphosphonium bromide | 0.019M, 6.9 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mls | O1CCCC1 | C4H8O
solvent | Hexane | 150 ml | CCCCCC | C6H14
product | 3-chloro-2-methylstyrene | ClC=1C(=C(C=C)C=CC1)C | C9H9Cl
